US07001897B2
To a solution of 3-methanesulfonyloxy-1-{4-[(3S)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine (410 mg, 0.780 mmol) (obtained as described in Reference Example 52(7)) in dimethylformamide (21 ml) was added potassium thioacetate (534 mg, 4.68 mmol) at room temperature, and the reaction mixture was stirred in an oil bath (80° C.) for 5 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (1:2)→ethyl acetate as the eluant to afford 3-acetylthio-1-{4-[(3S)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine (287 mg, yield 73%) as a pale brown solid.

reactant | 3-methanesulfonyloxy-1-{4-[(3S)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 0.780 mmol, 410 mg | CS(=O)(=O)OC1CN(C1)C=1SC=C(N1)C(N[C@@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C20H23N5O8S2
reactant | potassium thioacetate | 4.68 mmol, 534 mg | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 21 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-{4-[(3S)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 287 mg, yield 73% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)C(N[C@@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C21H23N5O6S2
